US08648066B2
4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-7-(1H-imidazo[4,5-b]pyridin-6-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine.
Prepared according to the method of example 5 by using 6-bromo-1-(triphenylmethyl)-1H-imidazo[4,5-b]pyridine (reagent preparation 15) and [4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid (reagent preparation 23) in step 1. 1H NMR (400 MHz, d6-DMSO): 8.64 (s, 1H), 8.48 (s, 1H), 8.39 (s, 1H), 8.22 (brs, 1H), 7.75 (d, 1H), 7.58 (dd, 1H), 7.06 (d, 1H), 4.67 (s, 2H), 4.35 (m, 2H), 3.85 (m, 2H), 2.72 (m, 2H), 2.46 (s, 2H), 1.61 (m, 2H), 0.85 (s, 6H); MS (EI) for C25H26N6O: 427 (MH+).

reactant | 6-bromo-1-(triphenylmethyl)-1H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)N=CN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C25H18BrN3
reactant | [4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)B(O)O)C | C19H24BN3O3
product | 4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-7-(1H-imidazo[4,5-b]pyridin-6-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)C=2C=C1C(=NC2)N=CN1)C | C25H26N6O
